US07056916B2
(c) 2-(3,4-difluorophenyl)-1,1-dimethylethylamine
4.00 g (18.5 mmol) of N-[2-(3,4-difluorophenyl)-1,1-dimethylethyl]formamide is dissolved in ethanol, combined with concentrated hydrochloric acid, and refluxed overnight. The reaction solution is poured onto ice water, made alkaline with sodium hydroxide, and extracted with tert-butylmethyl ether. The organic phases are washed with water, dried with sodium sulfate, and evaporated down. Yellow oil. Yield: 3.2 g (92%); mass spectrometry: [M+H]+=186.

reactant | N-[2-(3,4-difluorophenyl)-1,1-dimethylethyl]formamide | 18.5 mmol, 4.00 g | FC=1C=C(C=CC1F)CC(C)(C)NC=O | C11H13F2NO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(3,4-difluorophenyl)-1,1-dimethylethylamine | FC=1C=C(C=CC1F)CC(C)(C)N | C10H13F2N
